US06747028B1
NaOCH3(0.2 mol) was added to a mixture of N-(4-piperidinyl)-1H-benzimidazol-2-amine dihydrobromide (0.1 mol) in methanol (389 ml), the mixture was cooled on an ice bath and stirred for 2 hours. Bis(1,1-dimethylethyl) dicarbonate (0.1 mol) was added to a cooled mixture on an ice bath and then stirred for 18 hours at room temperature. The solvent was evaporated and the residue suspended in water/diisopropyl ether. The residue was filtered off, washed with water/diisopropyl ether and dried. The residue was boiled up in CH3OH, yielding 17.46 g of 1,1dimethylethyl 4 (1H-benzimidazol-2-ylamino)-1-piperidinecarboxylate (55.2%) (interm. 5).

reactant | NaOCH3 | 0.2 mol | O([Na])C
reactant | N-(4-piperidinyl)-1H-benzimidazol-2-amine dihydrobromide | 0.1 mol | Br.Br.N1CCC(CC1)NC1=NC2=C(N1)C=CC=C2
reactant | Bis(1,1-dimethylethyl) dicarbonate | 0.1 mol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 389 ml | CO | CH4O
product | 1,1dimethylethyl 4 (1H-benzimidazol-2-ylamino)-1-piperidinecarboxylate | 17.46 g, 55.2% | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O2
